US07611696B2
Preparation of 2-{1-[3-(2-{2-[3-(4-dicyanomethylene-2,6-dimethyl-4H-pyridin-1-yl)-propoxy]-ethoxy}-ethoxy)-propyl]-2,6-dimethyl-1H-pyridin-4-ylidene}-malononitrile
A solution of 0.52 g (3 mmol) of (2,6-dimethyl-4H-pyran-4-ylidene)malononitril and 0.3 ml (1.5 mmol) of 4,7,10-trioxa-1,13-tridecanediamine in 6 ml of acetontrile was heated to 90° C. for 70 h under nitrogen. Removal of the acetonitrile left a brown residue which was recrystallized from 25 ml methanol and 10 ml ethyl acetate yielding 0.68 g (43%) of 2-{1-[3-(2-{2-[3-(4-dicyanomethylene-2,6-dimethyl-4H-pyridin-1-yl)-propoxy]-ethoxy}-ethoxy)-propyl]-2,6-dimethyl-1H-pyridin-4-ylidene}-malononitrile.

reactant | (2,6-dimethyl-4H-pyran-4-ylidene)malononitril | 3 mmol, 0.52 g | CC=1OC(=CC(C1)=C(C#N)C#N)C | C10H8N2O
reactant | 4,7,10-trioxa-1,13-tridecanediamine | 1.5 mmol, 0.3 ml | C(CCOCCOCCOCCCN)N | C10H24N2O3
product | 2-{1-[3-(2-{2-[3-(4-dicyanomethylene-2,6-dimethyl-4H-pyridin-1-yl)-propoxy]-ethoxy}-ethoxy)-propyl]-2,6-dimethyl-1H-pyridin-4-ylidene}-malononitrile | C(#N)C(=C1C=C(N(C(=C1)C)CCCOCCOCCOCCCN1C(=CC(C=C1C)=C(C#N)C#N)C)C)C#N | C30H36N6O3
